US07429665B2
4-(5-(pyridin-4-yl)-1H-imidazol-1-yl)phenol
A solution of Preparation 81 (4-(1-(4-(benzyloxy)phenyl)-1H-imidazol-5-yl)pyridine, 2 g, 6.1 mmol) and anisole (13 mL, 122 mmol) in trifluoracetic acid (50 mL) was heated at 75° C. for 24 h. The solvent was removed in vacuo and the residue was purified via silica gel chromatography with chloroform-methanol-ammonium hydroxide (94:5:1) to afford 1.27 g (88%) of the title compound; diagnostic 13C NMR signals (100 MHz, CDCl3) δ 158.402, 149.145, 141.061, 138.018, 120.600, 129.822, 127.482, 127.370, 121.933, 116.497; MS (AP/Cl) 238.3 (M+H)+.

reactant | 4-(1-(4-(benzyloxy)phenyl)-1H-imidazol-5-yl)pyridine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C=NC=C1C1=CC=NC=C1 | C21H17N3O
reactant | anisole | 122 mmol, 13 mL | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoracetic acid | 50 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(5-(pyridin-4-yl)-1H-imidazol-1-yl)phenol | 1.27 g, 88% | N1=CC=C(C=C1)C1=CN=CN1C1=CC=C(C=C1)O | C14H11N3O
